US05939417
(B) 5-(p-Aminobenzoyl)-1-methylpyrrole-2-acetonitrile
A solution of 7 g. (0.026 mole) of 5-(p-nitrobenzoyl)-1-methylpyrrole-2-acetonitrile in 450 ml. of ethyl acetate containing 1 g. palladium-on-carbon catalyst is hydrogenated in a Parr shaker under 44 p.s.i. of hydrogen until the theoretical amount of hydrogen is consumed. The catalyst is filtered off, and the solvent evaporated in vacuo. A yellow solid, 5-(p-aminobenzoyl)-1-methylpyrrole-2-acetonitrile remains, m.p. 137-142° C.

reactant | 5-(p-nitrobenzoyl)-1-methylpyrrole-2-acetonitrile | 0.026 mole | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(N2C)CC#N)C=C1 | C14H11N3O3
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethyl acetate | 1 g | C(C)(=O)OCC | C4H8O2
product | 5-(p-Aminobenzoyl)-1-methylpyrrole-2-acetonitrile | NC1=CC=C(C(=O)C2=CC=C(N2C)CC#N)C=C1 | C14H13N3O
